US04418019
48.8 g (0.63 mol) ammonium acetate was suspended in 68 g (1.66 mols) acetonitrile in a flask which was scavenged with nitrogen, provided with an agitator and had a fractionating column mounted thereon, and the suspension was heated to about 80° C. under reflux. Next, 46.4 g (0.21 mol) molten P4O6 was added dropwise to the boiling mixture, the temperature being maintained at 80°-90° C. While the temperature was gradually increased to 160° C., 85.1 g distillate containing 91.5% acetonitrile and 8.2% acetic acid, corresponding to 77.9 g (0.190 mol)acetonitrile and 7.0 g (0.24 mol) acetic acid, was removed through a short column at a head temperature of 84°-89° C. After deduction of the acetonitrile feed material, 11.9 g (0.24 mol) acetonitrile was found to have been obtained as by-product. The acetonitrile/acetic acid mixture was recycled, after conversion of the acetic acid to ammonium acetate. The colorless residue retained in the flask was boiled for a short while in an ethanol/water-mixture (4:1) and 57.1 g 1-aminoethane-1,1-diphosphonic acid was obtained in a yield of 66%.

reactant | ammonium acetate | 0.63 mol, 48.8 g | C(C)(=O)[O-].[NH4+]
reactant | acetonitrile | 1.66 mols, 68 g | C(C)#N | C2H3N
reactant | P4O6 | O1P2OP3OP1OP(O2)O3 | O6P4
reactant | acetonitrile | 0.190 mol, 77.9 g | C(C)#N | C2H3N
reactant | acetonitrile | 0.24 mol, 11.9 g | C(C)#N | C2H3N
solvent | ethanol water | C(C)O.O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile acetic acid | C(C)#N.C(C)(=O)O
solvent | acetic acid | 0.24 mol, 7.0 g | C(C)(=O)O | C2H4O2
product | 1-aminoethane-1,1-diphosphonic acid | 57.1 g, yield of 66% | NC(C)(P(O)(=O)O)P(O)(=O)O | C2H9NO6P2
